US05215990
(a) 4-Hydroxy-2-methyloxymethylpyrimidine
Under an argon atmosphere, 31.5 g (0.72 mol) of sodium hydride are suspended in 690 ml of diisopropyl ether and, at room temperature, a mixture of 84.5 ml of ethylformate and 63.4 ml of ethyl acetate is added dropwise. The mixture is heated cautiously to 40°-44° C. After the vigorous evolution of hydrogen which starts during this, the mixture is stirred for a further 5 h with exclusion of moisture. The solid is filtered off with suction (96 g), the crude sodium salt of the formylacetic ester is dissolved in 350 ml of water, and 96 g (770 mmol) of methoxyacetamidine hydrochloride (cf. Chem. Abstr. 66, 37942×(1967)) dissolved in 350 ml of water are added. After the mixture has stood at room temperature for 3 days it is neutralized with hydrochloric acid, evaporated to dryness in vacuo and extracted by boiling several times with ethyl acetate. Evaporation of the solvent results in 62.5 g of product which is reacted further without further purification.

reactant | sodium hydride | 0.72 mol, 31.5 g | [H-].[Na+]
reactant | ethylformate | 84.5 ml | C(C)OC=O | C3H6O2
reactant | hydrogen | [H][H] | H2
reactant | methoxyacetamidine hydrochloride | 770 mmol, 96 g | Cl.COCC(=N)N
reactant | hydrochloric acid | Cl | ClH
reactant | diisopropyl ether | 690 ml | C(C)(C)OC(C)C | C6H14O
solvent | water | 350 ml | O | H2O
solvent | ethyl acetate | 63.4 ml | C(C)(=O)OCC | C4H8O2
product | 4-Hydroxy-2-methyloxymethylpyrimidine | 62.5 g | OC1=NC(=NC=C1)COC | C6H8N2O2
